US07037910B2
1E. Preparation of 1-(4,5-Bis(4-chlorophenyl)pyridazin-3-yl)hydrazine
3-Chloro-4,5-bis(4-chlorophenyl)pyridazine (10.0 g, 30.0 mmol) was dissolved in pyridine (30 mL) and hydrazine mono-hydrate was added (4.5 g, 90.0 mmol). The reaction mixture was refluxed for 3 h and was then added to water (100 mL). The pale colored solid was collected by filtration and rinsed thoroughly with water. The product was dried in a vacuum oven to give the title compound, 1-(4,5-bis(4-chlorophenyl)pyridazin-3-yl)hydrazine (9.5 g, 96%). MS: M+H=331. 1H NMR (DMSO-d6, 500 MHz): δ 8.59(1H, s), 8.56 (1H, br), 7.40 (2H, d, J=10 Hz), 7.35 (2H, d, J=10.0 Hz), 7.14–7.16 (4H, m).

reactant | 3-Chloro-4,5-bis(4-chlorophenyl)pyridazine | 30.0 mmol, 10.0 g | ClC=1N=NC=C(C1C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C16H9Cl3N2
reactant | hydrazine mono-hydrate | O.NN
reactant | water | 100 mL | O | H2O
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 1-(4,5-bis(4-chlorophenyl)pyridazin-3-yl)hydrazine | 9.5 g, 96% | ClC1=CC=C(C=C1)C1=C(N=NC=C1C1=CC=C(C=C1)Cl)NN | C16H12Cl2N4
